Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([O:7][H:8])=[C:9]([H:10])[H:11].[H:6],1.6697484081
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.8935394527
[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.91570702223
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.2257440565
[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.22210676218
[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[O:5],1.16714050341
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.49313657992
[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.5011500072
[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-3.4596290174
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][H:6],5.25729852016
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7],2.34063949188
[H:1][C:2]#[C:3].[O:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.62555578847
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.56899913072
[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.52446368292
[C:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.7568966584
[C:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2](#[C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],3.1558393119800003
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8],2.54853092554
[H:1][C:2]=[C:3]1[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],4.201661132219998
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12],0.847900984805
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2],5.31960795213
[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([O:3][O:4])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-2.83403186871
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[O:3],-1.76849694857
[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.01590221702
[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][H:3].[O:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.936786067671
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.65836545121
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],0.985102529837
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],7.37056871781
[C:1]#[C:2][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.84848958167
[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-5.149424842759999
